US07375115B2
N-[1-(Cyclohexylmethyl)piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
To a solution of 2-[1-(cyclohexylmethyl)piperidin-4-ylamino]-5-methylpyridine (216 mg) prepared in Preparation Example 1A-1 and triethylamine (152 mg) in dichloromethane (3 mL) was added 2-furoyl chloride (0.11 mL) dropwise under ice cooling. The solution was stirred at room temperature for 18 hours. Silica gel (NH silica gel) was added to the reaction solution, and it was concentrated under reduced pressure. The resulting residue was purified by chromatography (NH silica gel, hexane:ethyl acetate=2:1) to give the title compound as a colorless crystal (271 mg).

reactant | 2-[1-(cyclohexylmethyl)piperidin-4-ylamino]-5-methylpyridine | 216 mg | C1(CCCCC1)CN1CCC(CC1)NC1=NC=C(C=C1)C | C18H29N3
reactant | triethylamine | 152 mg | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 0.11 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[1-(Cyclohexylmethyl)piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 271 mg | C1(CCCCC1)CN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C23H31N3O2
